US09403832B2
Hydrazine hydrate [7803-57-8] (4.8 mL, 99.0 mmol) then acetic acid [64-19-7] (5.6 mL, 97.8 mmol) were added to a solution of 3-oxo-2-thiophen-2-yl-propionitrile (7.4 g, 49.0 mmol) in ethanol (100 mL). The solution was then heated to reflux for 2 h. The cooled reaction was evaporated to dryness and the resultant solid triturated in water. Product was isolated by filtration, washed with water, and dried to provide 4-thiophen-2-yl-2H-pyrazol-3-ylamine as 7.1 g of fine off white powder, mp. 183-184° C. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.51 (s, 1 H) 7.01-7.10 (m, 2 H) 7.27 (dd, J=5.05, 1.01 Hz, 1 H). 13C NMR (100 MHz, DMSO-d6) δ ppm 121.07, 121.47, 127.58, 135.85. LRMS (ESI) m/z 166.0 [(M+H)]+, calc'd for C7H7N3S: 165.22.

reactant | Hydrazine hydrate | 99.0 mmol, 4.8 mL | O.NN
reactant | acetic acid | 97.8 mmol, 5.6 mL | C(C)(=O)O | C2H4O2
reactant | 3-oxo-2-thiophen-2-yl-propionitrile | 49.0 mmol, 7.4 g | O=CC(C#N)C=1SC=CC1 | C7H5NOS
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 4-thiophen-2-yl-2H-pyrazol-3-ylamine | S1C(=CC=C1)C1=C(NN=C1)N | C7H7N3S
